US05773530
A mixture of 3-[2-{2-(2-benzyloxycarbonylethyl)-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (74 mg) and 1N-sodium hydroxide (0.28 ml) in tetrahydrofuran (4 ml) was refluxed with stirring for 5 hours. The mixture was evaporated under reduced pressure. The residue was dissolved in water. The aqueous layer was washed with ethyl acetate, acidified with 1N-hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethanol-water to give 3-[2-{2-(2-carboxyethyl)-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]-pyridine (54 mg).

reactant | 3-[2-{2-(2-benzyloxycarbonylethyl)-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 74 mg | C(C1=CC=CC=C1)OC(=O)CCC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C33H30N4O3
reactant | sodium hydroxide | 0.28 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 3-[2-{2-(2-carboxyethyl)-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]-pyridine | 54 mg | C(=O)(O)CCC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C26H24N4O3
